US06407112B1
(RS)-2a-(3-carboxypropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
(RS)-2a-(3-ethoxycarbonylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (6.20 g, 21.6 mmol) was dissolved in dimethoxyethane (70 ml). Then, 1N sodium hydroxide solution (22 ml, 22 mmol) was added thereto to effect a reaction at 25° C. for 18 hours. Successively the resulting solution was concentrated and aqueous hydrochloric acid was added to the residue obtained to effect crystallization, followed by filtration. Thus, the crystal was obtained in an amount of 5.45 g (yield 97%). MW 259.30 (C15H17NO3); mass spectrum EIMS m/z 259(M)+

reactant | (RS)-2a-(3-ethoxycarbonylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 21.6 mmol, 6.20 g | C(C)OC(=O)CCCC12C(NC=3C=CC=C(C13)CCC2)=O | C17H21NO3
reactant | sodium hydroxide | 22 mmol, 1N, 22 ml | [OH-].[Na+]
solvent | dimethoxyethane | 70 ml | C(OC)COC | C4H10O2
product | (RS)-2a-(3-carboxypropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | yield 97% | C(=O)(O)CCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H17NO3
